US07241798B2
Mixture of four isomers, one being ((1S,2S)-3-{[(S)-1-(3,5-Bis-trifluoromethyl-phenyl)-ethyl]-methyl-carbamoyl}-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester
To a round bottom flask was added methylene chloride (8 mL), triethylamine (0.87 mL, 6.3 mmol), and [(SR)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-amine (0.49 g, 1.6 mmol. The mixture was cooled to 0° C. and triphosgene (0.18 g, 0.61 mmol) in methylene chloride (3 mL) was added dropwise. The clear solution was stirred for 16 hours at room temperature. To the reaction mixture was added racemic Intermediate 48, one enantiomer being ((1S,2S)-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester (0.40 g, 1.5 mmol), diisopropyl ethyl amine (0.25 mL, 1.5 mmol), and acetonitrile (8 mL). The reaction was heated to remove the methylene chloride and then refluxed for 2 hours. The solvent was removed at reduced pressure and the residue was partitioned between saturated citric acid solution and methylene chloride. The organic phase was washed with saturated sodium bicarbonate solution, brine, dried over sodium sulfate, filtered, and concentrated to give the title compounds as a foam (0.84 g, quantitative yield).

reactant | triethylamine | 6.3 mmol, 0.87 mL | C(C)N(CC)CC | C6H15N
reactant | [(SR)-1-(3,5-bis-trifluoromethyl-phenyl)-ethyl]-methyl-amine | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C)NC)(F)F | C11H11F6N
reactant | triphosgene | 0.61 mmol, 0.18 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | ((1S,2S)-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester | 1.5 mmol, 0.40 g | C(C)(C)(C)OC(N[C@@]12[C@@H](NCC2C1)C1=CC=CC=C1)=O | C16H22N2O2
reactant | diisopropyl ethyl amine | 1.5 mmol, 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | ((1S,2S)-3-{[(S)-1-(3,5-Bis-trifluoromethyl-phenyl)-ethyl]-methyl-carbamoyl}-2-phenyl-3-aza-bicyclo[3.1.0]hex-1-yl)-carbamic acid tert-butyl ester | 0.84 g, quantitative yield | C(C)(C)(C)OC(N[C@@]12[C@@H](N(CC2C1)C(N(C)[C@@H](C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC=CC=C1)=O | C28H31F6N3O3
